datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)C[C@@H](C(=O)N[C@@H](Cc1c[nH]cn1)C(=O)[O-])[NH2+:21][H:20].O=C1C[C@@H](C(=O)O)[C@@H](C(=O)[O-:10])O1>>CC(C)C[C@@H](C(=O)N[C@@H](Cc1c[nH]cn1)C(=O)[O-])[NH2:21].O=C1C[C@@H](C(=O)O)[C@@H](C(=O)[O:10][H:20])O1 10=20;20,21=21",
"O=[N+]([O-])c1ccc(C2SCC[NH+:21]2[H:20])cc1.[NH3+]c1ccc(CC(=O)[O-:10])cc1>>O=[N+]([O-])c1ccc(C2SCC[NH:21]2)cc1.[NH3+]c1ccc(CC(=O)[O:10][H:20])cc1 10=20;20,21=21",
"C[NH+:21](c1ccc[nH+]c1)[H:20].O/N=C/c1ccc[n:10]c1>>C[NH:21]c1ccc[nH+]c1.O/N=C/c1ccc[n+:10]([H:20])c1 10=20;20,21=21",
"CC(C)NCC[NH:10]C(C)C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC(C)NCC[NH+:10](C(C)C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CO[N:21](C1=CC(=O)N(C)C(=O)N1C)[H:20].N[N-:10]C(=O)c1ccccc1>>CO[N-:21]C1=CC(=O)N(C)C(=O)N1C.N[N:10](C(=O)c1ccccc1)[H:20] 10=20;20,21=21",
"Cc1ccc(C(=O)[O-:10])cc1[N+](=O)[O-].NC(=[NH2+])NOCC(=O)[O:21][H:20]>>Cc1ccc(C(=O)[O:10][H:20])cc1[N+](=O)[O-].NC(=[NH2+])NOCC(=O)[O-:21] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20].c1cc([C@@H]2CCCN2)nc([C@@H]2CCC[NH:10]2)c1>>O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-].c1cc([C@@H]2CCCN2)nc([C@@H]2CCC[NH+:10]2[H:20])c1 10=20;20,21=21",
"CC(C)NCCCCCC[NH:10]C(C)C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC(C)NCCCCCC[NH+:10](C(C)C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"COc1c(CN)cccc1[O-:10].O=C([O-])C1CSC[NH+:21]1[H:20]>>COc1c(CN)cccc1[O:10][H:20].O=C([O-])C1CSC[NH:21]1 10=20;20,21=21",
"NS(=O)(=O)c1ccc(/N=C/c2ccccc2[O:21][H:20])cc1.O=C([O-])C1([NH2:10])CCCCC1>>NS(=O)(=O)c1ccc(/N=C/c2ccccc2[O-:21])cc1.O=C([O-])C1([NH2+:10][H:20])CCCCC1 10=20;20,21=21",
"Nc1ccc(S(=O)(=O)[N:21](c2ncccn2)[H:20])cc1.O=C([O-])CC(NC(=O)C(CC(=O)[O-])[NH2:10])C(=O)[O-]>>Nc1ccc(S(=O)(=O)[N-:21]c2ncccn2)cc1.O=C([O-])CC(NC(=O)C(CC(=O)[O-])[NH2+:10][H:20])C(=O)[O-] 10=20;20,21=21",
"NC(=NO)C(N)=[N+:21](O)[H:20].O=C([O-])C(CO)[NH:10]Cc1ccccc1O>>NC(=NO)C(N)=[N:21]O.O=C([O-])C(CO)[NH+:10](Cc1ccccc1O)[H:20] 10=20;20,21=21",
"C[Si](C)(C)[O-:10].Cc1[nH]c2ccccc2[n+:21]1[H:20]>>C[Si](C)(C)[O:10][H:20].Cc1[nH]c2ccccc2[n:21]1 10=20;20,21=21",
"CC1=C(CC(C)[NH2+]CC(O)c2ccc([NH2+:21][H:20])cc2)CCC1(C)C.O=C(NCC[N:10]1CCOCC1)c1ccc(Cl)cc1>>CC1=C(CC(C)[NH2+]CC(O)c2ccc([NH2:21])cc2)CCC1(C)C.O=C(NCC[N+:10]1([H:20])CCOCC1)c1ccc(Cl)cc1 10=20;20,21=21",
"C1CCC2C(C1)CCC[NH:10]2.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C1CCC2C(C1)CCC[NH+:10]2[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"Oc1ccc([O-:10])c(Br)c1.c1ccc2c([S:21][H:20])[nH+]ccc2c1>>Oc1ccc([O:10][H:20])c(Br)c1.c1ccc2c([S-:21])[nH+]ccc2c1 10=20;20,21=21",
"CCN(CC)Cc1cc(C)ccc1[O-:10].N#CC(C#N)=C(c1ccc(N)cc1)[O:21][H:20]>>CCN(CC)Cc1cc(C)ccc1[O:10][H:20].N#CC(C#N)=C(c1ccc(N)cc1)[O-:21] 10=20;20,21=21",
"Oc1ccc(C(c2ccccc2)=[NH:10])cc1.c1ccc(C2CCC[NH+:21]2[H:20])cc1>>Oc1ccc(C(c2ccccc2)=[NH+:10][H:20])cc1.c1ccc(C2CCC[NH:21]2)cc1 10=20;20,21=21",
"Cc1cc(S(=O)(=O)[N:21](c2nccs2)[H:20])ccc1N.Nc1nc([O-:10])[n+]([C@@H]2C[C@@H](O)[C@H](CO)O2)cc1CO>>Cc1cc(S(=O)(=O)[N-:21]c2nccs2)ccc1N.Nc1nc([O:10][H:20])[n+]([C@@H]2C[C@@H](O)[C@H](CO)O2)cc1CO 10=20;20,21=21",
"CC(=O)NCC[S-:10].c1cc2cn[nH]c2cc1[NH2+:21][H:20]>>CC(=O)NCC[S:10][H:20].c1cc2cn[nH]c2cc1[NH2:21] 10=20;20,21=21",
"BrCCC[NH2:10].Nc1ccc(/C=C/c2cc(N)c3ccccc3[n+:21]2[H:20])cc1>>BrCCC[NH2+:10][H:20].Nc1ccc(/C=C/c2cc(N)c3ccccc3[n:21]2)cc1 10=20;20,21=21",
"Cc1c[n+]([C@@H]2C[C@@H](O)[C@H](CO)O2)c([O:21][H:20])nc1N.c1[nH]c(Cc2c[n:10]c[nH]2)c[nH+]1>>Cc1c[n+]([C@@H]2C[C@@H](O)[C@H](CO)O2)c([O-:21])nc1N.c1[nH]c(Cc2c[n+:10]([H:20])c[nH]2)c[nH+]1 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=CC([N+](=O)[O-])=C2)[H:20])=C1.Clc1ccc(C(Nc2ccccc2)[O-:10])cc1>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=CC([N+](=O)[O-])=C2)=C1.Clc1ccc(C(Nc2ccccc2)[O:10][H:20])cc1 10=20;20,21=21",
"CN(C)c1ccc(C(c2ccc(N(C)C)cc2)=[NH+:21][H:20])cc1.Cc1cc([C@@H](N)CO)c(O)c([C@H](CO)[NH2:10])c1>>CN(C)c1ccc(C(c2ccc(N(C)C)cc2)=[NH:21])cc1.Cc1cc([C@@H](N)CO)c(O)c([C@H](CO)[NH2+:10][H:20])c1 10=20;20,21=21",
"COC(=O)C[NH2:10].O=C(N[O:21][H:20])c1cccc([N+](=O)[O-])c1>>COC(=O)C[NH2+:10][H:20].O=C(N[O-:21])c1cccc([N+](=O)[O-])c1 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1[nH]c2cn[nH]c2[n:10]1.Nc1[nH][n+:21]([H:20])c(N)c1/N=N/c1ccc(O)cc1>>COc1cc(S(C)=O)ccc1-c1[nH]c2cn[nH]c2[n+:10]1[H:20].Nc1[nH][n:21]c(N)c1/N=N/c1ccc(O)cc1 10=20;20,21=21",
"O=C(O[C@@H]1C[C@H]2CC[C@@H](C1)[NH:10]2)C(CO)c1ccccc1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>O=C(O[C@@H]1C[C@H]2CC[C@@H](C1)[NH+:10]2[H:20])C(CO)c1ccccc1.O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"C=C(C)[C@@H]1C[NH:10][C@H](C(=O)[O-])[C@@H]1CC(=O)[O-].O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C=C(C)[C@@H]1C[NH+:10]([H:20])[C@H](C(=O)[O-])[C@@H]1CC(=O)[O-].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CCN(CC)C/C(=N\[O:21][H:20])C(C)=NO.Cc1cc(C)c2cccc([O-:10])c2n1>>CCN(CC)C/C(=N\[O-:21])C(C)=NO.Cc1cc(C)c2cccc([O:10][H:20])c2n1 10=20;20,21=21",
"Cn1c[n+:21]([H:20])c2c(N=O)c(O)ccc21.S=C(Nc1ccccc1)[N-:10]C(=S)c1ccccc1>>Cn1c[n:21]c2c(N=O)c(O)ccc21.S=C(Nc1ccccc1)[N:10](C(=S)c1ccccc1)[H:20] 10=20;20,21=21",
